US07279481B2
N-(4-Fluoro-3-{2-[4-(2-methyl-5-quinolinyl)-1-piperazinyl]ethyl}phenyl)-2,2-dimethylpropanamide (E137)
The title compound was prepared in 52% yield according to the general procedure for the preparation of amides, ureas and carbamates (Method A) starting from 5-{4-[2-(5-bromo-2-fluorophenyl)ethyl]-1-piperazinyl}-2-methylquinoline and 2,2-dimethylpropanamide.

reactant | 5-{4-[2-(5-bromo-2-fluorophenyl)ethyl]-1-piperazinyl}-2-methylquinoline | BrC=1C=CC(=C(C1)CCN1CCN(CC1)C1=C2C=CC(=NC2=CC=C1)C)F | C22H23BrFN3
reactant | 2,2-dimethylpropanamide | CC(C(=O)N)(C)C | C5H11NO
product | N-(4-Fluoro-3-{2-[4-(2-methyl-5-quinolinyl)-1-piperazinyl]ethyl}phenyl)-2,2-dimethylpropanamide | 52% yield | FC1=C(C=C(C=C1)NC(C(C)(C)C)=O)CCN1CCN(CC1)C1=C2C=CC(=NC2=CC=C1)C | C27H33FN4O
